US04873358
To a 100 ml three necked round bottom flask, equipped with a liquid addition funnel, a solid addition funnel and a condenser topped with a nitrogen inlet, was added 20 ml of dimethylsulfoxide and 1.08 g (0.0178 mole) nitromethane. 0.1 g (0.00178 mole) potassium hydroxide followed by 1 ml of a 20% solution of ethyl cyanoformate in (0.0021 mle) dimethylsulfoxide. The solution was stirred for a short period and the addition of each reactant (base and formate) was repeated nine times. The resultant solution remained homogeneous throughout the addition process, was stirred at ambient temperature for one hour and then acidified to pH of 4 with conc. hydrochloric acid. The product was extracted with ethyl acetate and dried with anhydrous magnesium sulfate. The magnesium sulfate was filtered off and solvent evaporated to give ethyl nitroacetate in 68% yield.

reactant | nitromethane | 0.0178 mole, 1.08 g | [N+](=O)([O-])C | CH3NO2
reactant | potassium hydroxide | 0.00178 mole, 0.1 g | [OH-].[K+]
reactant | ethyl cyanoformate | C(#N)C(=O)OCC | C4H5NO2
reactant | formate | C(=O)[O-]
reactant | hydrochloric acid | Cl | ClH
solvent | dimethylsulfoxide | CS(=O)C | C2H6OS
solvent | dimethylsulfoxide | 20 ml | CS(=O)C | C2H6OS
product | ethyl nitroacetate | 68% yield | [N+](=O)([O-])CC(=O)OCC | C4H7NO4
